US06417192B1
To a solution of 2-methyl-2-thiazoline (1.01 g) in dry tetrahydrofuran at −70° C. was added a solution of n-butyl lithium in hexanes (2.5M, 4.0 ml) dropwise over 10 min. After stirring at −70° C. for 2 h, 1,7-dibromoheptane (12.9 g) was added in one portion (temperature increased to −45° C.). The mixture was cooled again to −70° C. for 1 h and then allowed to warm to room temperature over 1 h. The mixture was cooled to 0° C. and water (10 ml) added, followed by dilute hydrochloric acid (to pH 2). The organic layer was separated and the aqueous layer extracted with diethyl ethyl (2×20 ml). The organic layers were combined and washed with water and brine and dried over magnesium sulfate. Evaporation under reduced pressure gave an oil that was chromatographed on silica gel using 40-60° C. petroleum ether:ethyl acetate 5:1 to give 1-bromo-8-(2-thiazolinyl)octane (1.06 g). 1H-NMR (CDCl3) δ 1.2-1.5 (6H, m), 1.5-1.75 (4H, m), 1.75-1.95 (2H, m), 2.50 (2H, t), 3.28 (2H, t), 3.40 (2H, t) and 4.21 (2H, dt).

reactant | 2-methyl-2-thiazoline | 1.01 g | CC=1SCCN1 | C4H7NS
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 1,7-dibromoheptane | 12.9 g | BrCCCCCCCBr | C7H14Br2
reactant | hydrochloric acid | pH 2 | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | 1-bromo-8-(2-thiazolinyl)octane | 1.06 g | BrCCCCCCCCC=1SCCN1 | C11H20BrNS
